US07335674B2
8.1) N-(2,4-dimethoxyphenyl)-4-fluorobenzamide:
The protocol is identical to that described for Example 1.1, with 4-fluorobenzoyl chloride replacing 2,6-difluorobenzoyl chloride and 2,4-dimethoxyaniline replacing 3,5-dimethoxyaniline.

reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 2,4-dimethoxyaniline | COC1=C(N)C=CC(=C1)OC | C8H11NO2
product | N-(2,4-dimethoxyphenyl)-4-fluorobenzamide | COC1=C(C=CC(=C1)OC)NC(C1=CC=C(C=C1)F)=O | C15H14FNO3
